US09290675B2
The cyclododecane-1,4,8-tricarbaldehyde can be prepared by a process comprising trimerizing 1,3-butadiene to give 1,4,8-cyclododecatriene, and hydroformylating the 1,4,8-cyclododecatriene.

reactant | cyclododecane-1,4,8-tricarbaldehyde | C1(CCC(CCCC(CCCC1)C=O)C=O)C=O | C15H24O3
reactant | 1,3-butadiene | C=CC=C | C4H6
product | 1,4,8-cyclododecatriene | C1=CCC=CCCC=CCCC1 | C12H18
